datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25][H:26]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][O:24][O:25][H:26],62.751632
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14],150.247
[C:0]([C:1]([C:2]([C:3]([O:4])=[O:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:6])=[O:5])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],28.342416
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([C:12]([H:19])([H:20])[H:21])([C:13](=[S:14])[H:22])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:18])[H:5].[C:10]([C:11]([C:12]([H:19])([H:20])[H:21])[C:13](=[S:14])[H:22])([H:15])([H:16])[H:17],57.8647
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8].[C:19](=[O:20])[H:21]>>[C-:19]#[O+:20].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:9])[H:21])([H:6])([H:7])[H:8],0.0
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][O:24],8.811504
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],21.6313
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20],-23.012
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([H:19])([H:20])[H:21])=[C:7]([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([C:6]([H:19])([H:20])[H:21])[C:7]1([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:13])([H:11])[H:12],179.87
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])=[C:15]([c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:28])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:22])([H:23])[H:24])([C:14]([H:25])([H:26])[H:27])[C:15]([c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:28])[H:7])([H:5])[H:6],73.3037
[O:0][O:1][C:2]([C:3]([C:4]([O:5][O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[O:0]([O:1][C:2]([C:3]([C:4]([O:5][O:6][H:13])([H:11])[H:12])([H:9])[H:10])[H:8])[H:7],78.6592
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])=[C:7]([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([H:13])[C:2]([H:14])([H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([C:6]([H:20])([H:21])[H:22])[C:7]1([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])([H:10])([H:11])[H:12],46.6098
[C:0]([H:1])([H:2])[H:3].[c:4]1([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]1[H:15]>>[C:0]([H:1])([H:2])([H:3])[C:4]1([H:10])[C:5]([H:11])[C:6]([H:12])=[C:7]([H:13])[C:8]([H:14])=[C:9]1[H:15],45.655808
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10](=[C:11][C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:11](=[C:10]([H:13])[H:14])[C:12]([H:15])([H:16])[H:17])([H:4])[H:5],11.255
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[Cl:21]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][Cl:21],6.4063
